US07414060B2
6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide
The title compound was prepared from 3-tert-Butoxy-carbonylamino-6-methyl-pyridine-2-carboxylic acid methyl ester in accordance with the general method of example 4; step 2 using 2-methyl-4-aminopyridine (CAS: [18437-58-6]) instead of 2-chloro-4-aminopyridine to yield [2-(2-Methyl-pyridin-4-ylcarbamoyl)-6-methyl-pyridin-3-yl]-carbamic acid tert-butyl ester, MS (ISP): m/e=343.1 (M+H+). Boc-deprotection as described in example 4 step 3 yielded 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide, MS (ISP): m/e=243.4 (M+H+). Palladium catalysed arylation with 3-Bromopyridine as described in example 4 step 4 yielded the final product as a light yellow solid, MS (ISP): m/e=320.0 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC=C1N)C | C13H14N4O
reactant | 3-Bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
catalyst | Palladium | [Pd] | Pd
product | 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C | C18H17N5O
